US07314885B2
4-[N-(2,3-Difluoro-phenyl)-N′-amino-carbamimidoyl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester:
To a solution of 4-(2,3-difluoro-phenylthiocarbamoyl)-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester (420 mg, 1.12 mmol) in CH2Cl2 (5 mL) and EtOH (5 mL) was added NH2NH2 (50 mg, 1.56 mmol) at room temperature. The mixture was stirred for 3 hours and the solvents were removed by evaporation under reduced pressure. The crude yellow solid product (410 mg, 98%) was dried on the pump for direct use. MS (ES+): m/e=373.1 (M+H); LC/Method A/2.70 min.

reactant | 4-(2,3-difluoro-phenylthiocarbamoyl)-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester | 1.12 mmol, 420 mg | COC(=O)C=1N(C=C(C1)C(NC1=C(C(=CC=C1)F)F)=S)S(=O)(=O)C | C14H12F2N2O4S2
reactant | NH2NH2 | 1.56 mmol, 50 mg | NN | H4N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-[N-(2,3-Difluoro-phenyl)-N′-amino-carbamimidoyl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)C(NC1=C(C(=CC=C1)F)F)=NN)S(=O)(=O)C | C14H14F2N4O4S
